US04362880
Dimethyl 3-thienylmalonate, unpurified from the above reaction, (0.0385 kg, 0.18 mole) was added dropwise over 10 minutes to a stirred solution of sodium hydroxide (0.0157 kg, 0.39 mole) in water (0.065 dm3) maintaining the temperature between 10°-20°. The resulting solution was stirred at ambient temperature for 1 hour and the methanol (formed in the hydrolysis) distilled under reduced pressure (Buchi, to ≤50°). The concentrate was cooled to 10°, 4-methyl-2-pentanone (0.040 dm3) added and the pH adjusted to 5.0 with concentrated hydrochloric acid. The mixture was separated, the aqueous phase acidified to pH 3.0 (conc. HCl) and the solution extracted with dichloromethane (2×0.02 dm3). After separation the aqueous phase was acidified to pH 1.0 (conc. HCl) and the solution extracted with diethyl ether (2×0.05 dm3). The ethereal extract was treated with charcoal and dried over magnesium sulphate (0.01 kg). Filtration and evaporation of the filtrate gave a pale yellow gum that on trituration with dichloromethane (0.03 dm3) yielded 3-thienylmalonic acid as a white powder 0.025 kg (75%), m.p. 138°-139°.

reactant | Dimethyl 3-thienylmalonate | S1C=C(C=C1)C(C(=O)OC)C(=O)OC | C9H10O4S
reactant | sodium hydroxide | 0.39 mole, 0.0157 kg | [OH-].[Na+]
reactant | methanol | CO | CH4O
solvent | water | 0.065 dm3 | O | H2O
product | 3-thienylmalonic acid | 0.025 kg, 75% | S1C=C(C=C1)C(C(=O)O)C(=O)O | C7H6O4S
